US07612067B2
Preparation of 5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carboxylic acid dimethylamide
Using a procedure analogous to Example 23B, 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carboxylic acid (151 mg, 0.42 mmol) and 2.0 M dimethylamine (2.0 mL, 4 mmol) give the title compound (161 mg, 0.42 mmol, 100%). 1H NMR (CDCl3): δ 0.89 (t, J=7.4 Hz, 6H), 1.75-1.94 (m, 4H), 2.14 (s, 3H), 2.51 (s, 3H), 2.53 (s, 3H), 3.15-3.50 (m, 7H), 6.72 (s, 1H), 7.30 (s, 1H). ES-MS (m/z): calcd for C21H28N4OS (M+H)+: 385.6 found: 385.3.

reactant | 5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carboxylic acid | 0.42 mmol, 151 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C=C(S2)C(=O)O)C | C19H23N3O2S
reactant | dimethylamine | 4 mmol, 2.0 M, 2.0 mL | CNC | C2H7N
product | 5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiophene-2-carboxylic acid dimethylamide | 0.42 mmol, 161 mg, 100% | CN(C(=O)C=1SC(=C(C1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C21H28N4OS
